reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[O:1]([C:2]([C:3]([C:4]#[C:5][H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8]>>[O:1]1[C:2]([H:9])([H:10])[C@@:3]([C:6]#[C:7][H:13])([H:11])[C:4]1=[C:5]([H:8])[H:12],71.57581014651171
[C:1](=[C:2]([C:4](=[O:5])[H:11])[H:9])([H:6])[H:7].[O:3]([H:8])[H:10]>>[C:1]([C@@:2]([O:3][H:10])([C:4](=[O:5])[H:11])[H:9])([H:6])([H:7])[H:8],55.322735670506106
[C:1](/[C:2](=[C:6](/[C:3]([C:4]#[N:5])([H:12])[H:13])[C:7][H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10],36.948111849346205
[C:1]([C:2]([C:3](=[C:4])[C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]#[C:4][C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],5.2491364421491085
[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7]>>[O:1]=[C:2]([N:3]([C:6](=[C:5]=[C:4]([H:9])[H:10])[H:11])[H:8])[H:7],75.6520484701811
[O:1]1[C:2]([H:9])([H:10])[C@:3]2([C:4]([H:11])([H:12])[N:5]2[H:13])[C@:6]1([O:7][H:8])[H:14]>>[O:1]([C:2]([C@@:3]1([C:6](=[O:7])[H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8],39.605823007675
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C-:4]=[O+:5][C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:5])[C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10],26.588648778353914
[C:1]([C:2](=[O:3])[O+:4]=[C-:5][N:6]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[O:4]/[C:5](=[N:6]/[H:11])[H:10])([H:7])([H:8])[H:9],46.3566029997008
[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([O:7][C:6](=[C:5]([H:12])[H:13])[H:14])[N:3]([H:11])[O:4]1)([H:8])([H:9])[H:10],113.30627086543998
[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N+:5]([H:12])([H:13])[C-:6]12>>[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13],12.398043836035896
[C:1]([N:2]([C:3](=[O:4])[H:10])[C:5](=[O:6])[H:11])([H:7])([H:8])[H:9]>>[C-:3]#[O+:4].[C:1]([N:2]([C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9],79.6294692627257
[C:1]([C@@:2]1([H:10])[C@@:3]2([H:11])[C:4]([H:12])([H:13])[O:5][C@@:6]12[H:14])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]1([H:11])[C-:4]([H:13])[O+:5]=[C:6]1[H:14])([H:10])[H:12])([H:7])([H:8])[H:9],87.95916503095141
[C:1]([C:2]#[C:3][C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]=[C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])[H:8])([H:7])[H:9],130.794607993721
[C:1]([C:2]([N:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N+:3]([C-:4]([H:13])[H:14])([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],87.93424732008758
[N+:1]([C-:2]([C:5]#[N:6])[H:9])([C:3]([O:4][H:12])([H:10])[H:11])([H:7])[H:8]>>[N:1]([C@@:2]([C:3]([O:4][H:12])([H:10])[H:11])([C:5]#[N:6])[H:9])([H:7])[H:8],47.83529450313431
[C-:6]#[O+:7].[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][H:13])[H:12])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8],57.0871755924298
[O:1]=[C:2]([C:3](=[O:4])[C:5](=[C:6])[H:8])[H:7]>>[O:1]=[C:2]([C:3](=[O:4])[C:5]#[C:6][H:8])[H:7],0.21174898450360047
[N:1]#[C:2][C:3]#[N:4]>>[N+:1](#[C-:2])[N+:4]#[C-:3],109.01956916529899
[N:1](=[C:2]1\[N:3]=[N:4][C@:6]2([H:9])[O:5][C@:7]12[H:10])\[H:8]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],45.886645381934905
[N:1](=[C:2](/[C:3](=[C:4])[H:8])[O:6][C:5]([H:9])([H:10])[H:11])\[H:7]>>[N:1](=[C:2]1/[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])([H:11])[O:6]1)\[H:7],6.093503665655206
[C:1]([N:2]([C:3](=[O:4])[H:9])[H:8])([H:5])([H:6])[H:7]>>[C-:3]#[O+:4].[C:1]([N:2]([H:8])[H:9])([H:5])([H:6])[H:7],83.3848859204626
[C:1]([C:2]([C-:3]([N+:4]1=[C:6]([H:14])[C:5]1([H:12])[H:13])[H:11])([H:9])[H:10])([H:7])([H:8])[H:15]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1([N:4]1[C:5]([H:12])([H:13])[C:6]1([H:14])[H:15])[H:11],36.10987082408259
[C:1]([O:2][C:3]([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([N:5]([C:6][O:7][H:16])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],72.60388091302559
[O:1]([C:2]([C@@:3]([C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8]>>[O:1]1[C:2]([H:9])([H:10])[C@:3]([C:4](=[O:5])[H:12])([H:11])[C:6]1=[C:7]([H:8])[H:13],76.281036440857
[N:1](=[C:2](\[O+:3]=[C-:4][O:5][H:9])[C:6](=[O:7])[H:10])\[H:8]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8],33.054050463687396
[C:1]([N:2]([C:3](=[O:4])[C:5]([H:10])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8]>>[C-:3]#[O+:4].[C:1]([N:2]([C:5]([H:10])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8],112.83910323313
[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[C:4]([H:13])[H:14])[C:6]#[N:7])[H:11])([H:8])([H:9])[H:10].[O:5]([H:12])[H:15],63.4924157313299
